US07521449B2
A) 1-Benzyl-4-(4-methoxyphenyl)piperid-4-ol
A solution of 44.8 g of 1-bromo-4-methoxybenzene in 700 ml of THF is cooled to −78° C., 168 ml of a 1.6M solution of n-butyllithium in hexane are added dropwise and the mixture is then stirred at −78° C. for 30 minutes. The solution of 45.3 g of 1-benzyl-4-piperidinone in 100 ml of THF is then added dropwise and the mixture is stirred at −78° C. for 2 hours. The reaction mixture is poured into 400 ml of saturated NH4Cl solution and extracted with ether, the organic phase is washed with water, with saturated NaCl solution and dried over MgSO4, and the solvent is evaporated off under vacuum. 48.6 g of the expected product are obtained after crystallization from hexane.

reactant | 1-bromo-4-methoxybenzene | 44.8 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-benzyl-4-piperidinone | 45.3 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(4-methoxyphenyl)piperid-4-ol | 48.6 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)OC | C19H23NO2
